US07365230B2
Synthesis of 4-(N,N-diphenylamino)cinnamoyl chloride
A 50 mL round bottom flask equipped with a magnetic stirrer and a nitrogen inlet-outlet was charged with 4-(N,N-diphenylamino)cinnamic acid (1.0 g, 3.2 mmol) in 15 mL dichloromethane. Thionyl chloride (0.35 mL, 4.8 mmol) was added followed by 12.4 □L N,N-dimethylformamide. Hydrogen chloride gas evolution began immediately and then ceased within one hour of stirring. The solution was stirred for 3 h and then concentrated on a rotary evaporator. The product was transferred to a high vacuum line and residual solvent was removed under vacuum. The product was obtained as a brown solid and stored under nitrogen without any further purification.

reactant | 4-(N,N-diphenylamino)cinnamic acid | 3.2 mmol, 1.0 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(C=CC(=O)O)C=C1 | C21H17NO2
reactant | Thionyl chloride | 4.8 mmol, 0.35 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | Hydrogen chloride | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(N,N-diphenylamino)cinnamoyl chloride | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(C=CC(=O)Cl)C=C1 | C21H16ClNO
